Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:8],4.58754930418
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.7414769794099998
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.04635186365
[C:1]/[C:2](=[C:3](/[H:4])[O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[C:2](=[C:3](\[H:4])[O:5][H:6])\[C:7]([H:8])([H:9])[O:10][H:11],5.03287835953
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],0.586518044569
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],2.46321193384
[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])([C:4]=[C:12]([H:13])[H:14])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[H:11],4.88032146933
[H:1]/[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1],2.8795456177700003
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],4.67304246933
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:11].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10],4.46427581332
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.2085477910299998
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-8.02917709324
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1],4.19191857747
[H:1][O:2][C:3]([H:4])/[C:5](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5](=[C:6](\[H:7])[O:8][H:9])\[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],4.5936763672900005
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.57994689009
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],0.73099801372
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.49523748809
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2],6.218218733
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.48680880427
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10].[H:1],5.990042026009999
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.8826044369580001
[H:14].[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.90928032551
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],4.79342746622
[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-6.41121934728
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],-5.53402514634
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7]2[O:8][C@:9]12[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9][H:10],1.20151060708
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-4.0261685686
[C:1][C:2][O:3].[H:4]>>[C:1]#[C:2][O:3][H:4],-2.0491185276
